US05043444
As described in Example 6, but using a 20strength solution of dibenzylamine in N-methylpyrrolidone instead of dodecylamine at a temperature of 70 C, N,N dibenzylurea was obtained in a yield of 62% of theory after recrystallizing from water/acetone.

reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N,N dibenzylurea | yield of 62% | C(C1=CC=CC=C1)N(C(=O)N)CC1=CC=CC=C1 | C15H16N2O
